US04220658
(0.1 mole) of 1-(2,6-dichlorophenyl)-3-(N,N-diethylcarbamyl) thiourea is combined with 200 ml of methanol and 14.1 g (0.1 mole) of iodomethane and refluxed for 4 hours. This is then evaporated to dryness and 100 ml of hexane is added. The mixture is filtered to obtain 1-(2,6-dichlorophenyl)-3-(N,N-diethylcarbamyl)-2-methylthiouronium iodide.

reactant | 1-(2,6-dichlorophenyl)-3-(N,N-diethylcarbamyl) thiourea | 0.1 mole | ClC1=C(C(=CC=C1)Cl)NC(=S)NC(N(CC)CC)=O | C12H15Cl2N3OS
reactant | iodomethane | 0.1 mole, 14.1 g | IC | CH3I
solvent | methanol | 200 ml | CO | CH4O
product | 1-(2,6-dichlorophenyl)-3-(N,N-diethylcarbamyl)-2-methylthiouronium iodide | [I-].ClC1=C(C(=CC=C1)Cl)[NH+]=C(SC)NC(N(CC)CC)=O | InChI=1S/C13H17Cl2N3OS.HI/c1-4-18(5-2)13(19)17-12(20-3)16-11-9(14)7-6-8-10(11)15;/h6-8H,4-5H2,1-3H3,(H,16,17,19);1H
